US07956216B2
67B: N-Boc-2-Tosyl-ethylamine
Pyridine (1.5 mL, 18.5 mmol) was added to 2-(N-Boc-amino)-ethanol (280 mg, 1.7 mmol) at 0° C. Tosyl chloride (1.65 g, 8.7 mmol) was then added and the reaction was allowed to stir at 0° C. overnight. The resulting cloudy reaction was diluted with Et2O and washed with water, saturated NaHCO3 and brine, dried over MgSO4 and concentrated. The resulting white solid was purified using SiO2 with AcOEt/petroleum ether 20:80 to 30:70. A white solid was obtained (250 mg, 46%). NMR 1H (ppm, CDCl3): 7.77 (d, J3=8.3 Hz, 2H), 7.33 (d, J3=8.0 Hz, 2H), 4.82 (br. s., 1H), 4.05 (t, J3=5.08 Hz, 2H), 3.38-3.33 (m, 2H), 2.43 (s, 3H), 1.39 (s, 9H).

reactant | Pyridine | 18.5 mmol, 1.5 mL | N1=CC=CC=C1 | C5H5N
reactant | 2-(N-Boc-amino)-ethanol | 1.7 mmol, 280 mg | C(=O)(OC(C)(C)C)NCCO | C7H15NO3
reactant | Tosyl chloride | 8.7 mmol, 1.65 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
solvent | Et2O | CCOCC | C4H10O
product | N-Boc-2-Tosyl-ethylamine | C(=O)(OC(C)(C)C)NCCS(=O)(=O)C1=CC=C(C)C=C1 | C14H21NO4S
